US05773437
(1) 2-(2-Hydroxy-3-morpholinopropyl)-2H-1,2-benzothiazin-4(3H)-one 1,1-Dioxide Ethylene Ketal
A suspension of 2H-1,2-benzothiazin-4(3H)-one 1,1-dioxide ethylene ketal (0.48 g, 2 mmol) and 60% sodium hydride (0.08 g, 2 mmol.) in 1,2-dimethoxyethane (20 mL) was heated for one hour under refluxing. The resulting reaction liquid was further heated for 16 hours under refluxing, after addition of 1-chloro-3-morpholino-2-propanol (0.36 g, 2 mmol.). The reaction liquid was placed under reduced pressure to distill the solvent off. The residue was treated with 1N hydrochloric acid and ethyl acetate, and the aqueous layer was taken out. The aquous solution was made basic by addition of potassium carbonate, and the precipitated oil was extracted with ethyl acetate. The extract solution was washed with an aqueous saturated sodium chloride solution, and dried over anhydrous sodium sulfate. The dried solution was placed under reduced pressure to distill the solvent off. The resulting residue was treated by silica gel column chromatography (ethyl acetate/methanol=10/1) to give the desired compound (0.54 g, yield 70%) as a colorless oil.

reactant | 2H-1,2-benzothiazin-4(3H)-one 1,1-dioxide ethylene ketal | 2 mmol, 0.48 g | C1COC2(CNS(C3=C2C=CC=C3)(=O)=O)O1 | C10H11NO4S
reactant | sodium hydride | 2 mmol, 0.08 g | [H-].[Na+]
reactant | 1-chloro-3-morpholino-2-propanol | 2 mmol, 0.36 g | ClCC(CN1CCOCC1)O | C7H14ClNO2
solvent | 1,2-dimethoxyethane | 20 mL | COCCOC | C4H10O2
product | 2-(2-Hydroxy-3-morpholinopropyl)-2H-1,2-benzothiazin-4(3H)-one 1,1-Dioxide Ethylene Ketal | 0.54 g, yield 70% | C1COC2(CN(S(C3=C2C=CC=C3)(=O)=O)CC(CN3CCOCC3)O)O1 | C17H24N2O6S
